US04594199
3-[Hydroxy-(4-phenylbutyl)phosphinyl]propionic acid, methyl ester
To a solution of 4-phenylbutyl phosphonous acid (1 g, 0.005 mole) in chloroform (40 ml) was added triethylamine (1.55 ml, 0.0111 mole), trimethyl silylchloride (1.41 ml, 0.0111 mole) and methyl acrylate (0.50 ml, 0.0055 mole). The reaction mixture was stirred at reflux for 18 hours. CHCl3 was removed in vacuo. The residue was diluted with ether and extracted with 5% aqueous NaHCO3 solution. Aqueous layers were acidified with concentrated HCl and extracted with ether. Organic layers were extracted with brine and dried over Na2SO4. Solvent was removed in vacuo to give 1.26 g of an oil. T-60 1H NMR appeared to characterize product from Michael addition.

reactant | 4-phenylbutyl phosphonous acid | 0.005 mole, 1 g | C1(=CC=CC=C1)CCCCP(O)O | C10H15O2P
reactant | triethylamine | 0.0111 mole, 1.55 ml | C(C)N(CC)CC | C6H15N
reactant | trimethyl silylchloride | 0.0111 mole, 1.41 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | methyl acrylate | 0.0055 mole, 0.50 ml | C(C=C)(=O)OC | C4H6O2
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[Hydroxy-(4-phenylbutyl)phosphinyl]propionic acid, methyl ester | 1.26 g | OP(=O)(CCC(=O)OC)CCCCC1=CC=CC=C1 | C14H21O4P
